US06635638B2
1-(3,4-Methylenedioxvphenyl)-2-[5-(4-methylphenyl)-pyrimidin-2-yl]-2,3,4,9-tetrahydro-1H-β-carboline
Following the same procedure as outlined in Example 12, 1-(3,4-methylenedioxyphenyl)-2,3,4,9-tetrahydro-1H-β-carboline (2.19 g, 7.5 mmol) (prepared according to the process as disclosed in WO97/43287, Intermediate 7, page 24) and 2-chloro-5-(4-methylphenyl)pyrimidine (1.03 g, 5 mmol) in toluene (50 mL, anhydrous) and DBU (0.9 mL) were reacted to yield the product as a white solid.

reactant | 1-(3,4-methylenedioxyphenyl)-2,3,4,9-tetrahydro-1H-β-carboline | 7.5 mmol, 2.19 g | C1OC=2C=C(C=CC2O1)C1NCCC=2C3=CC=CC=C3NC12 | C18H16N2O2
reactant | 2-chloro-5-(4-methylphenyl)pyrimidine | 5 mmol, 1.03 g | ClC1=NC=C(C=N1)C1=CC=C(C=C1)C | C11H9ClN2
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | DBU | 0.9 mL | C1CCC2=NCCCN2CC1 | C9H16N2
product | 1-(3,4-Methylenedioxvphenyl)-2-[5-(4-methylphenyl)-pyrimidin-2-yl]-2,3,4,9-tetrahydro-1H-β-carboline | C1OC=2C=C(C=CC2O1)C1N(CCC=2C3=CC=CC=C3NC12)C1=NC=C(C=N1)C1=CC=C(C=C1)C | C29H24N4O2
